US07893048B2
(4S)-3-{[(4-Methoxybenzyl)thio]acetyl}-4-phenyl-1,3-oxazolidin-2-one
[(4-Methoxybenzyl)thio]acetic acid (1.3 g, 6.1 mmol) was dissolved in dry CH2Cl2 (40 ml) and given 0° C. N,N′-Dicyclohexylcarbodiimide (DCC, 6.1 g, 6.1 mmol) and 4-(dimethylamino)pyridine (DMAP, 1.6 g, 12.9 mmol) were added and the mixture was stirred for 30 minutes. (S)-(+)-4-Phenyl-2-oxazolidinone (1.0 g, 6.1 mol) was added and the mixture was stirred at room temperature for 24 hours. The mixture was filtrated, concentrated under reduced pressure and purified by flash-chromatography (Hex:EtOAc 8:2 then 1:1). This afforded the title compound as a white solid.

reactant | [(4-Methoxybenzyl)thio]acetic acid | 6.1 mmol, 1.3 g | COC1=CC=C(CSCC(=O)O)C=C1 | C10H12O3S
reactant | N,N′-Dicyclohexylcarbodiimide | 6.1 mmol, 6.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (S)-(+)-4-Phenyl-2-oxazolidinone | 6.1 mol, 1.0 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 12.9 mmol, 1.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4S)-3-{[(4-Methoxybenzyl)thio]acetyl}-4-phenyl-1,3-oxazolidin-2-one | COC1=CC=C(CSCC(=O)N2C(OC[C@@H]2C2=CC=CC=C2)=O)C=C1 | C19H19NO4S
